US04461902
To a suspension of 5-[4-(1-methyl-2-oxocyclohexylmethoxy)benzyl]thiazolidine-2,4-dione (5.2 g) in methanol (50 ml), sodium borohydride (0.757 g) was added under ice cooling. The mixture was stirred with ice cooling for 30 minutes, then acetic acid (2 ml) was added. The mixture was poured into water and extracted with benzene. The extract was washed with water and dried (MgSO4). The benzene was distilled off, and the oily residue was subjected to silica gel (100 g) column chromatography. From the benzene-acetone (10:1, v/v) eluate fractions, 5-[4-(2-hydroxy-1-methylcyclohexylmethoxy)benzyl]thiazolidine-2,4-dione was obtained as a powder (4.2 g, 80.8%). m.p. 101°-103° C. The thus-obtained powder was a mixture of two isomers different in the configuration of the hydroxyl group on the cyclohexane ring.

reactant | 5-[4-(1-methyl-2-oxocyclohexylmethoxy)benzyl]thiazolidine-2,4-dione | 5.2 g | CC1(C(CCCC1)=O)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H21NO4S
reactant | sodium borohydride | 0.757 g | [BH4-].[Na+]
reactant | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
reactant | water | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | 5-[4-(2-hydroxy-1-methylcyclohexylmethoxy)benzyl]thiazolidine-2,4-dione | OC1C(CCCC1)(C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C18H23NO4S
